US07368578B2
A mixture of 3-[4-{(4-chloromethyl-2-methoxyphenoxy)methyl}-5-methyl-1,3-oxazol-2-yl]benzonitrile (4.32 g), 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde (2.0 g), anhydrous potassium carbonate (1.47 g) and N,N-dimethylformamide (100 mL) was stirred at 80° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl)-2-methoxyphenoxy}methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile (5.30 g, yield 96%) as colorless crystals. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 161-162° C.

reactant | 3-[4-{(4-chloromethyl-2-methoxyphenoxy)methyl}-5-methyl-1,3-oxazol-2-yl]benzonitrile | 4.32 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C20H17ClN2O3
reactant | 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 2.0 g | OC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H8N2O2
reactant | potassium carbonate | 1.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl)-2-methoxyphenoxy}methyl]-5-methyl-1,3-oxazol-2-yl}benzonitrile | 5.30 g, yield 96% | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C#N)C=CC2)C=C1)OC | C30H24N4O5
